US03966801
Ethyl α-hydroxy-γ-(4-cyclohexylphenyl)butyrate 0.38 mole and 6.1 g. of iodine (0.048 mole) and dissolved in 100 ml. of carbon tetrachloride. To this solution is added a solution of 40.4 g. (0.57 mole) of chlorine dissolved in 365 ml. of carbon tetrachloride over a period of 2 hours. During the addition, the temperature of the reaction mixture is maintained at 0°C. The mixture is stirred for 3 hours and allowed to stand with gradual warming to room temperature over 15 hours. The solvent is removed by distillation under reduced pressure. The residue is fractionally distilled to obtain ethyl α-hydroxy-γ-(3-chloro-4-cyclohexylphenyl)butyrate.

reactant | Ethyl α-hydroxy-γ-(4-cyclohexylphenyl)butyrate | 0.38 mole | OC(C(=O)OCC)CCC1=CC=C(C=C1)C1CCCCC1 | C18H26O3
reactant | iodine | 0.048 mole | II | I2
reactant | chlorine | 0.57 mole | ClCl | Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl α-hydroxy-γ-(3-chloro-4-cyclohexylphenyl)butyrate | OC(C(=O)OCC)CCC1=CC(=C(C=C1)C1CCCCC1)Cl | C18H25ClO3
